US09023847B2
71. 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-benzenesulfonylamino-ethyl)-amide
This compound was prepared in an analogous manner as 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-amino-ethyl)-amide using benzenesulfonyl chloride instead of benzoyl chloride. LCMS (ESI) 442 (M+H) 1H NMR (400 MHz, DMSO-d6) δ ppm 11.51 (1H, br. s.) 10.25 (1H, s) 8.05 (1H, t, J=5.76 Hz) 8.00 (1H, d, J=5.47 Hz) 7.70-7.81 (4H, m) 7.49-7.62 (3H, m) 7.45 (1H, d, J=5.47 Hz) 7.25-7.32 (1H, m) 6.81 (1H, d, J=5.47 Hz) 6.39 (1H, dd, J=3.42, 1.85 Hz) 3.21-3.28 (2H, m) 2.82-2.93 (2H, m)

reactant | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-amino-ethyl)-amide | NCCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C14H15N5OS
reactant | benzenesulfonyl chloride | C1(=CC=CC=C1)S(=O)(=O)Cl | C6H5ClO2S
product | 3-(1H-Pyrrolo[2,3-b]pyridin-4-ylamino)-thiophene-2-carboxylic acid (2-benzenesulfonylamino-ethyl)-amide | C1(=CC=CC=C1)S(=O)(=O)NCCNC(=O)C=1SC=CC1NC1=C2C(=NC=C1)NC=C2 | C20H19N5O3S2
